US09029374B2
2-amino-4-fluorobenzonitrile (111 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(2-cyano-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (40 mg, 42%) as a white solid. Mass Spectrum: M+H+ 465.

reactant | 2-amino-4-fluorobenzonitrile | 0.82 mmol, 111 mg | NC1=C(C#N)C=CC(=C1)F | C7H5FN2
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(2-cyano-5-fluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 40 mg, 42% | C(#N)C1=C(C=C(C=C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C25H25FN4O4
